US06599917B1
a) 2-Benzyl-3-bromo-6-(2-methoxyethoxy)pyridine
A mixture of 5 g of 2-benzyl-3-bromo-6-hydroxypyridine, 3.9 g of anhydrous potassium carbonate, 2.7 ml of 2-bromoethyl methyl ether and 20 ml of N,N-dimethylformamide was heated under stirring in an oil bat kept at 80° C. for one hour. After cooling as it was, the mixture was extracted with ethyl acetate-water. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to silica gel column chromatography and eluted with 1-3% ethyl acetate/hexane, to give 4.2 g of the target compound.

reactant | 2-benzyl-3-bromo-6-hydroxypyridine | 5 g | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)O | C12H10BrNO
reactant | potassium carbonate | 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 2.7 ml | COCCBr | C3H7BrO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Benzyl-3-bromo-6-(2-methoxyethoxy)pyridine | 4.2 g | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)OCCOC | C15H16BrNO2
